### PR TITLE
[Merged by Bors] - refactor(LinearAlgebra/BilinForm): Remove `structure BilinForm` from Mathlib, migrate all of `_root_.BilinForm` to `LinearMap.BilinForm`

### LINKED ISSUE #10553: Refactor/remove BilinForm
There seems to be broad agreement that in the long term `structure BilinForm` should not exist - instead we should use `M →ₗ[R] M →ₗ[R] R`.

Many `BilinForm` results already have equivalents e.g. following #9485, many of the results in `LinearAlgebra/Matrix/BilinearForm` are just wrappers around results in `LinearAlgebra/Matrix/SesquilinearForm`.

One possible objection to removing `BilinForm` altogether at this stage is that it supports non-commutative semirings, which `M →ₗ[R] M →ₗ[R] R` does not support without further assumptions.

Zulip discussion: 

- https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/Quadratic.20Maps/near/395767687
- https://leanprover.zulipchat.com/#narrow/stream/116395-maths/topic/.60bilinear_form.60

Related issues/PRs:

-  #7581
-  #9485
- #10097
- #10238
- #10422
- #10424
- #10432
- #11032
- #11057
- #11078
- https://github.com/leanprover-community/mathlib/issues/15907

### PR DESCRIPTION
**Pull request by mans0954**
Remove `structure BilinForm` from `LinearAlgebra/BilinearForm/Basic` and migrate all of `_root_.BilinForm` to `LinearMap.BilinForm`

Closes: #10553 

This isn't the end of the story, as there's still a lot of overlap between `LinearAlgebra/BilinearForm` and `LinearAlgebra/SesquilinearForm` but that can be sorted out in subsequent PRs.

Supersedes: 

- #11057
- #11032
- #10432
- #10422

---

- [x] depends on: #11280

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
Something's not quite right with `LinearAlgebra/BilinearForm/Hom` L116 - it won't work without the `toFun`.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean [hunk 1]
```diff
@@ -86,28 +91,25 @@ def toLinHom : BilinForm R M →ₗ[R] M →ₗ[R] M →ₗ[R] R where
     intro y
     simp only [toLinHomAux₂, toLinHomAux₁, LinearMap.coe_mk, LinearMap.smul_apply, smul_apply,
       AddHom.coe_mk]
-#align bilin_form.to_lin_hom BilinForm.toLinHom
+#align bilin_form.to_lin_hom LinearMap.BilinForm.toLinHom
 
-@[simp]
-theorem toLin'_apply (A : BilinForm R M) (x : M) : ⇑(toLinHom A x) = A x :=
+theorem toLin'_apply (A : BilinForm R M) (x : M) : toLinHom.toFun A x = A x :=
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Hom.lean:96]: The `toFun` shouldn't be needed here.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean [hunk 2]
```diff
@@ -6,6 +6,7 @@ Authors: Andreas Swerdlow, Kexing Ying
 import Mathlib.LinearAlgebra.BilinearMap
 import Mathlib.LinearAlgebra.BilinearForm.Basic
 import Mathlib.LinearAlgebra.Basis
+import Mathlib.Algebra.Algebra.Bilinear
 
 /-!
 # Bilinear form and linear maps
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Hom.lean:12]: Can you add a TODO comment in this docstring that indicates a lot of the file is now pointless (for instance, `toLinHom` is now the identity!).

I don't think we need to fix that in this PR, but it would be good to record that the file needs further work to avoid confused readers.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean [hunk 3]
```diff
@@ -199,114 +191,104 @@ namespace LinearMap
...
-  bilin_smul_right r x y := by
-    simp only
-    rw [← smul_one_smul R r (_ : M), BilinForm.smul_right, smul_one_mul r (_ : R), map_smul,
-      smul_eq_mul]
+@[simps!]
+def compBilinForm (f : R →ₗ[R'] R') (B : BilinForm R M) : BilinForm R' M := LinearMap.mk₂ R'
+  (fun x y => f (B x y)) (by simp only [map_add, add_apply, forall_const])
+  (by simp only [map_smul_of_tower, smul_apply, map_smul, smul_eq_mul, forall_const])
+  (by simp only [map_add, forall_const])
+  (by simp only [map_smul_of_tower, map_smul, smul_eq_mul, forall_const])
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Hom.lean:199]: This is `restrictScalars12` combined with `compr2` I think

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean [hunk 4]
```diff
@@ -46,236 +47,183 @@ Bilinear form,
 
 open BigOperators
 
-universe u v w
+open LinearMap (BilinForm)
 
-/-- `BilinForm R M` is the type of `R`-bilinear functions `M → M → R`. -/
-structure BilinForm (R : Type*) (M : Type*) [CommSemiring R] [AddCommMonoid M] [Module R M] where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Basic.lean:52]: Can you leave behind a `@[deprecated] alias` for `_root_.BilinForm`?

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean [hunk 5]
```diff
@@ -34,23 +35,27 @@ Bilinear form,
...
 
 /-- Auxiliary definition to define `toLinHom`; see below. -/
 def toLinHomAux₁ (A : BilinForm R M) (x : M) : M →ₗ[R] R where
   toFun y := A x y
-  map_add' := A.bilin_add_right x
-  map_smul' c := A.bilin_smul_right c x
-#align bilin_form.to_lin_hom_aux₁ BilinForm.toLinHomAux₁
+  map_add' := map_add _
+  map_smul' := map_smul _
+#align bilin_form.to_lin_hom_aux₁ LinearMap.BilinForm.toLinHomAux₁
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Hom.lean:58]: I think you can replace this with `:= A x`!

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean [hunk 6]
```diff
@@ -34,23 +35,27 @@ Bilinear form,
...
 
 /-- Auxiliary definition to define `toLinHom`; see below. -/
 def toLinHomAux₂ (A : BilinForm R M) : M →ₗ[R] M →ₗ[R] R where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Hom.lean:61]: This one is now `:= A`!

**Review by eric-wieser — APPROVED** [review]
This looks good to me, thanks! I think probably it would be a waste of time to deprecate most of this; but we should deprecated `BilinForm` itself so that it's obvious that the replacement is `LinearMap.BilinForm`.

I think there's still a lot of cleanup to do after this PR, but it probably makes sense to avoid this one growing too much.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean:96]:
```
theorem toLin'_apply (A : BilinForm R M) (x : M) : toLinHom A x = A x :=
  rfl
```
gives me:
```
function expected at
  toLinHom
term has type
  BilinForm ?m.30887 ?m.30888 →ₗ[?m.30887] ?m.30888 →ₗ[?m.30887] ?m.30888 →ₗ[?m.30887] ?m.30887
```

Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean:96]: Similarly for `⇑(toLinHom A x) = A x`

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean:96]: Try adding an explicit type annotation to `toLinHom`

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean]:
```
def toLinHomAux₁ (A : BilinForm R M) (x : M) : M →ₗ[R] R := A x
```
gives me
```
type mismatch
  (fun x y ↦ (A x) y) x
has type
  M → R : Type (max u_1 u_2)
but is expected to have type
  M →ₗ[R] R : Type (max u_2 u_1)
```

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean]: Yes, that one works.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 5 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean]: I've changed the proof of `toLinHom` so that it no longer depends on `toLinHomAux₁`. However, this PR introduces a dependency on `toLinHomAux₁` in `BilinearForm/Orthogonal` so I can't remove it altogether yet.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean [hunk 7]
```diff
@@ -46,236 +47,183 @@ Bilinear form,
...
 variable {V : Type*} {K : Type*} [Field K] [AddCommGroup V] [Module K V]
 variable {B : BilinForm R M} {B₁ : BilinForm R₁ M₁}
 
+namespace LinearMap
+
 namespace BilinForm
 
-instance : CoeFun (BilinForm R M) fun _ => M → M → R :=
-  ⟨bilin⟩
+instance : CoeFun (BilinForm R M) fun _ => M → M → R := ⟨fun B₃ x y => B₃ x y⟩
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Basic.lean:64]: I think this instance is dangerous; it applies even when the `BilinForm` alias is not being used, and is what breaks `A x` in the other comment thread in this PR.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:52]: I tried adding:
```
@[deprecated] alias _root_.BilinForm := LinearMap.BilinForm
```
but then `open LinearMap (BilinForm)` no longer seems to work - I have to replace every `BilinForm` with `LinearMap.BilinForm`.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 7 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:64]: Even with this instance in place, the lemmas below are pretty useless; you get things like
```
coe_smul : (fun x y ↦ ((a • B) x) y) = a • fun x y ↦ (B x) y
```

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:52]: Perhaps a better idea then is `export LinearMap (BilinForm)` at the top of the file, which means that any old code that uses `BilinForm` resolves it to `LinearMap.BilinForm` automatically (with no deprecation).

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean]: I found a solution using a local attribute

Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean]: Thanks.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:52]: Okay, done.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean]: Thanks, I've replaced the other additions of `toFun` with explicit type annotations as well.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 2 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean:12]: Done.

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean (hunk 3 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Hom.lean]: Done, thanks.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 7 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean]: Okay, I've removed that instance. Thanks.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean [hunk 8]
```diff
@@ -165,31 +165,20 @@ When `R` itself is commutative, this provides an `R`-action via `Algebra.id`. -/
...
-theorem coe_smul {α} [Monoid α] [DistribMulAction α R] [SMulCommClass R α R] (a : α)
-    (B : BilinForm R M) : ⇑(a • B) = a • ⇑B :=
-  rfl
-#align bilin_form.coe_smul LinearMap.BilinForm.coe_smul
-
-@[simp]
-theorem smul_apply {α} [Monoid α] [DistribMulAction α R] [SMulCommClass R α R] (a : α)
-    (B : BilinForm R M) (x y : M) : (a • B) x y = a • B x y :=
-  rfl
-#align bilin_form.smul_apply LinearMap.BilinForm.smul_apply
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Basic.lean]: This should be `noaligned`

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean [hunk 9]
```diff
@@ -165,31 +165,20 @@ When `R` itself is commutative, this provides an `R`-action via `Algebra.id`. -/
...
-
 instance {α β} [Monoid α] [Monoid β] [DistribMulAction α R] [DistribMulAction β R]
     [SMulCommClass R α R] [SMulCommClass R β R] [SMulCommClass α β R] :
     SMulCommClass α β (BilinForm R M) :=
-  ⟨fun a b B => ext₂ fun x y => smul_comm a b (B x y)⟩
+  LinearMap.instSMulCommClassLinearMapInstSMulLinearMapInstSMulLinearMap
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/BilinearForm/Basic.lean:171]: I think `inferInstance` would be better here.

Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean]: Done, here and elsewhere.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 8 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean]: Done, thanks.

**Comment by mans0954** [comment]
@eric-wieser I notice you have approved this PR - is it ready to go on the maintainer queue?

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean [hunk 10]
```diff
@@ -6,12 +6,20 @@ Authors: Andreas Swerdlow, Kexing Ying
...
+import Mathlib.Algebra.Algebra.Bilinear
 
 /-!
 # Bilinear form and linear maps
 
 This file describes the relation between bilinear forms and linear maps.
 
+## TODO
+
+A lot of this file is now pointless folowing the replacement of the dedicated `_root_.BilinForm`
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/BilinearForm/Hom.lean:18]: Let's soften the wording a bit here:
```suggestion
A lot of this file is now redundant following the replacement of the dedicated `_root_.BilinForm`
```

File: Mathlib/LinearAlgebra/BilinearForm/Hom.lean [hunk 11]
```diff
@@ -6,12 +6,20 @@ Authors: Andreas Swerdlow, Kexing Ying
...
+structure with `LinearMap.BilinForm`, which is just an alias for `M →ₗ[R] M →ₗ[R] R`. For example
+`LinearMap.BilinForm.toLinHom` is now just the identity map. This pointless code should be removed
+in the future.
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/BilinearForm/Hom.lean:21]:
```suggestion
`LinearMap.BilinForm.toLinHom` is now just the identity map. This redundant code should be removed.
```

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean [hunk 12]
```diff
@@ -43,326 +44,239 @@ In this file we use the following type variables:
 Bilinear form,
 -/
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/BilinearForm/Basic.lean:46]:
```suggestion

@[deprecated] --  2024-04-08
abbrev BilinForm (R M : Type*) [CommSemiring R] [AddCommMonoid M] [Module R M] := M →ₗ[R] M →ₗ[R] R

```

**Review by ocfnash — APPROVED** [review]
Thank you for doing this! Please apply my suggestions and feel free to merge

Indeed there is still a lot of clean up to follow but I agree it can happen separately.

bprs d+

**Comment by ocfnash** [comment]
bors d+

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 12 above)
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:46]: @ocfnash  I tried that before, but it seems to conflict with `open LinearMap (BilinForm)` https://github.com/leanprover-community/mathlib4/pull/11278#discussion_r1536821607 so we abandoned that idea.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean [hunk 13]
```diff
@@ -43,326 +44,239 @@ In this file we use the following type variables:
...
-  zero :=
-    { bilin := fun _ _ => 0
-      bilin_add_left := fun _ _ _ => (add_zero 0).symm
-      bilin_smul_left := fun a _ _ => (mul_zero a).symm
-      bilin_add_right := fun _ _ _ => (zero_add 0).symm
-      bilin_smul_right := fun a _ _ => (mul_zero a).symm }
+instance : Zero (BilinForm R M) := inferInstance
 
-@[simp]
 theorem coe_zero : ⇑(0 : BilinForm R M) = 0 :=
```
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:141]: Agreed.

[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:141]: There's loads of cleanup to do (and I am hoping @mans0954 will generously continue to take an interest in this worth project) but I think the important thing to do is to get the definition deleted: that way the problem can only shrink.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 12 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:46]: Fair enough.

File: Mathlib/LinearAlgebra/BilinearForm/Basic.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/LinearAlgebra/BilinearForm/Basic.lean:141]: > I think probably the thing to do is just deprecate all of the `coe_` lemmas in this file in a follow-up PR

I've done a PR for this #12112 - in fact it seems most of that file can be deprecated.
